US07582775B2
A. 6-Iodo-benzo[b]thiophene-2-carboxylic acid ethyl ester
A solution of 2-fluoro-4-iodo-3-trimethylsilanyl-benzaldehyde (14.2 g, 44.1 mmol) (Tetrahedron Letters 1992, p7499-7502) in DMF (50 mL) is treated with mercapto-acetic acid ethyl ester (5.80 mL, 52.9 mmol) and K2CO3 (12.2 g, 88.2 mmol). The resulting suspension is stirred at 75° C. for 60 min and quenched with water (300 mL). The mixture is extracted with EtOAc (3×50 mL,) and the organic layer is dried over Na2SO4, concentrated, and purified by silica gel column chromatography (5-20% EtOAc/Hex), to give the title compound as an oil (9.40 g, 64%).

reactant | 2-fluoro-4-iodo-3-trimethylsilanyl-benzaldehyde | 44.1 mmol, 14.2 g | FC1=C(C=O)C=CC(=C1[Si](C)(C)C)I | C10H12FIOSi
reactant | mercapto-acetic acid ethyl ester | 52.9 mmol, 5.80 mL | C(C)OC(CS)=O | C4H8O2S
reactant | K2CO3 | 88.2 mmol, 12.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 6-Iodo-benzo[b]thiophene-2-carboxylic acid ethyl ester | 9.40 g, 64% | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)I | C11H9IO2S
